US07456164B2
Intermediate 58: 4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carbothioamide
The title compound (223 mg, 50%) was prepared from 4-{4-[(1-cyclobutyl-4-piperidinyl)oxy]phenyl}tetrahydro-2H-pyran-4-carbonitrile and diethyl dithiophosphate similarly to the procedure used for intermediate 50. LRMS APCI+ m/z 375 [MH]+.

reactant | 4-{4-[(1-cyclobutyl-4-piperidinyl)oxy]phenyl}tetrahydro-2H-pyran-4-carbonitrile | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C#N | C21H28N2O2
reactant | diethyl dithiophosphate | P(=S)(SCC)(OCC)[O-]
product | 4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carbothioamide | 223 mg, 50% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(N)=S | C21H30N2O2S
